US04069321
1,2-Epoxy-25-fluoro-4,6-cholestadien-3-one (0.01 moles) prepared according to 1D above is dissolved in 100 ml. of a 1:1 solvent mixture of tetrahydrofuran and liquid ammonia containing 0.04 moles of ammonium chloride. The mixture is stirred at reflux using a dry ice condenser and reduced by adding 0.42 grams of finally divided metalic lithium (0.06 gm. atoms) over a period of 10 minutes. The mixture is refluxed for one hour after which time the ammonia is allowed to evaporate from the mixture. The solvent is removed from the remainder of the mixture by evaporation to near dryness at room temperature. The residue is washed in 50 ml of ice water containing 5.0 g of ammonium chloride. The ice water is extracted three times with 50 ml of chloroform. The chloroform extracts are combined and the solvent is removed by evaporation to yield crude 25-fluoro-1α-hydroxycholesterol. 25-Fluoro-1α-hydroxycholesterol can be purified by chromatographing the crude product on a silica gel column using a solvent of petroleum ether and diethyl ether.

reactant | 1,2-Epoxy-25-fluoro-4,6-cholestadien-3-one | 0.01 moles | O1C2C1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)(C)F)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H39FO2
reactant | ammonia | 0.04 moles | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | lithium | 0.06 gm | [Li] | Li
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 25-fluoro-1α-hydroxycholesterol | FC(C)(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O | C27H45FO2
